US08048878B2
Synthesis of 5-(4-fluorophenyl)hexahydroindolizine-3,7-dione
A solution of tributyltin hydride (3.88 mL) and 2,2′-azobis(isobutyronitrile) (0.56 g) in benzene (25 mL) was added dropwise to a solution of 1-(3-bromopropionyl)-2-(4-fluorophenyl)-2,3-dihydro-1H-pyridin-4-one obtained above (2.9 g) in benzene (60 mL) at 90° C. over four hours. The reaction solution was stirred at the same temperature for three hours. The reaction solution was returned to room temperature and poured into water, followed by extraction with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane-ethyl acetate system) to obtain 600 mg of the title compound. The property values of the compound are as follows.

reactant | tributyltin hydride | 3.88 mL | C(CCC)[SnH](CCCC)CCCC
reactant | 2,2′-azobis(isobutyronitrile) | 0.56 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 1-(3-bromopropionyl)-2-(4-fluorophenyl)-2,3-dihydro-1H-pyridin-4-one | BrCCC(=O)N1C(CC(C=C1)=O)C1=CC=C(C=C1)F | C14H13BrFNO2
reactant | water | O | H2O
solvent | benzene | 25 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 60 mL | C1=CC=CC=C1 | C6H6
product | 5-(4-fluorophenyl)hexahydroindolizine-3,7-dione | 600 mg | FC1=CC=C(C=C1)C1N2C(CCC2CC(C1)=O)=O | C14H14FNO2
